US07157464B2
Synthesis of 3-[2-(5-Methoxy-2-methyl-phenylamino)-ethyl]-oxazolidin-2-one
To a flask was added 2.95 g (10.3 mmol) of Toluene-4-sulfonic acid, 2-(2-oxo-oxazolidin-3-yl)-ethyl ester, 1.56 g (11.4 mmol) of 2-methyl-5-methoxyaniline, 2.58 g (18.7 mmol) of potassium carbonate, and 22 mL of anhydrous dimethylformamide, and the mixture was heated at 100° C. for seven hours. The reaction was allowed to cool to room temperature, and was partitioned between ethyl acetate and water. The phases were separated, and the ethyl acetate phase was washed with brine, dried over Na2SO4, filtered, and concentrated to an oil. The oil was purified by chromatography (120 mL silica, 60 ethyl acetate/40 hexanes) to give the corresponding product as a clear oil that solidified upon drying: 1H NMR (DMSO-d6, 400 MHz) 6.81 (d, 1H), 6.11 (s, 1H), 6.04 (d, 1H), 4.92 (t, 1H), 4.21 (t, 2H), 3.65 (s, 3H), 3.59 (m, 2H), 3.31 (m, 2H), 3.23 (m, 2H), 1.95 (s, 3H) ppm.

reactant | Toluene-4-sulfonic acid, 2-(2-oxo-oxazolidin-3-yl)-ethyl ester | 10.3 mmol, 2.95 g | C1(=CC=C(C=C1)S(=O)(=O)OCCN1C(OCC1)=O)C | C12H15NO5S
reactant | 2-methyl-5-methoxyaniline | 11.4 mmol, 1.56 g | CC1=C(N)C=C(C=C1)OC | C8H11NO
reactant | potassium carbonate | 18.7 mmol, 2.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 22 mL | CN(C=O)C | C3H7NO
product | 3-[2-(5-Methoxy-2-methyl-phenylamino)-ethyl]-oxazolidin-2-one | COC=1C=CC(=C(C1)NCCN1C(OCC1)=O)C | C13H18N2O3
